US07514422B2
N-Trifluoroacetyl-7-methoxy-1-methylene-2,3,4,5-tetrahydro-1H-3-benzazepine
A solution of N-allyl,N-trifluoroacetyl-2-iodo-5-methoxyphenethylamine (20.5 g, 50 mmol) in dimethylformamide (250 mL) is treated with KOAc (14.6 g, 149 mmol), n-Bu4NBr (16.0 g, 50 mmol), PPh3 (1.3 g, 5.0 mmol), Pd(OAc)2 (0.56 g, 2.5 mmol) and stirred overnight at 90 C. The product mixture was cooled to 20 C, filtered, diluted with water (500 mL) and extracted with ether (3×500 mL). The combined organic phases were washed with water (100 mL), brine (100 mL), dried with Na2SO4 and concentrated. Flash chromatography (10% EtOAc in hexane, silica) resulted in 6.6 g of a yellow oil. 1H NMR (400 MHz, CDCl3) d 7.26 (d, J=8 Hz, 1H), 6.77 (d, J=8 Hz, 1H), 6.66 (s, 1H), 5.34-5.19 (m, 2H), 4.40 (m, 2H), 3.83 (m, 2H), 3.80 (s, 3H), 3.00 (m, 2H). MS calculated for C14H14F3NO2+H: 285, observed: 285.

reactant | N-allyl,N-trifluoroacetyl-2-iodo-5-methoxyphenethylamine | 50 mmol, 20.5 g | C(C=C)N(C(C(F)(F)F)=O)CCC1=C(C=CC(=C1)OC)I | C14H15F3INO2
reactant | KOAc | 149 mmol, 14.6 g | CC(=O)[O-].[K+]
reactant | PPh3 | 5.0 mmol, 1.3 g | C1=CC=C(C=C1)P(C2=CC=CC=C2)C3=CC=CC=C3 | C18H15P
solvent | dimethylformamide | 250 mL | CN(C=O)C | C3H7NO
catalyst | n-Bu4NBr | 50 mmol, 16.0 g | [N+](CCCC)(CCCC)(CCCC)CCCC.[Br-]
catalyst | Pd(OAc)2 | 2.5 mmol, 0.56 g | CC(=O)[O-].CC(=O)[O-].[Pd+2]
product | N-Trifluoroacetyl-7-methoxy-1-methylene-2,3,4,5-tetrahydro-1H-3-benzazepine | 6.6 g | FC(C(=O)N1CCC2=C(C(C1)=C)C=CC(=C2)OC)(F)F | C14H14F3NO2
